US07196090B2
4-[3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-7-methylamino-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylic Acid
To a 250-mL round-bottomed flask was added Ethyl-4-[3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylamino-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylate (crude 1.5 mmol), methanol (70 mL), water (20 mL), and sodium hydroxide (600 mg, 15 mmol), and the mixture was heated to 50° C. for 3 days. The crude reaction solution was then concentrated to less than 10 mL in vacuo, and then the volume was increased to 50 mL with water. The pH was then adjusted to 4 with 6 M hydrochloric acid, and the resulting white precipitate was collected by filtration and dried in vacuo overnight to deliver the title compound (460 mg, 63% yield for 2 steps) as a white solid: mp 148° C., LRMS: 478.2 (M+H).

reactant | Ethyl-4-[3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylamino-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylate | C(C)OC(=O)C1CCC(CC1)N1C(N(CC=2C1=NC(=NC2)NC)C2=C(C(=CC(=C2F)OC)OC)F)=O | C24H29F2N5O5
reactant | methanol | 70 mL | CO | CH4O
reactant | sodium hydroxide | 15 mmol, 600 mg | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 4-[3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-7-methylamino-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylic Acid | 460 mg, 63% yield | FC1=C(C(=C(C=C1OC)OC)F)N1C(N(C2=NC(=NC=C2C1)NC)C1CCC(CC1)C(=O)O)=O | C22H25F2N5O5
